US06596743B2
(2.2-Diphenyl-propionyl)-carbamic acid ethyl ester
The title compound, colorless gum, MS: m/e=297.4 (M+H+) was prepared in accordance with the general method of example 1 from crude 2,2-diphenylpropionyl isocyanate and ethanol.

reactant | 2,2-diphenylpropionyl isocyanate | C1(=CC=CC=C1)C(C(=O)N=C=O)(C)C1=CC=CC=C1 | C16H13NO2
reactant | ethanol | C(C)O | C2H6O
product | (2.2-Diphenyl-propionyl)-carbamic acid ethyl ester | C(C)OC(NC(C(C)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C18H19NO3
